Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Sulfa (Sulfonamide Antibiotics)
 
Attending: ___.
 
Chief Complaint:
PCP: ___

CC: Right hip pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is an ___ F with a history of dementia and frequent 
falls being admitted for management of right hip pain after a 
recent fall. She does not remember the specific events 
surrounding the fall but does remember she was suddenly found on 
the floor at her assisted living facility. Since that time she 
has noted difficulty ambulating due to right hip pain.

On arrival to ___ ED: T 98.3, P 84, BP 142/62, RR 20, 96% on 
RA. Received a CT head, CXR, and hip films in the ED. Also 
received CTX for a UTI.

Review of Systems: No recent illnesses. No fevers or chills. No 
SOB, cough, chest pain, PND, palpitations. No bowel difficulty. 
No BRBPR or melena. She does endorse some urinary frequency. No 
___ edema. No rashes or ___. Other systems reviewed in detail and 
all otherwise negative.
 
Past Medical History:
1. Hyperlipidemia.  
2. Type 2 diabetes. HbA1C ___ 7.6.  
3. Hypertension. 
4. Osteopenia, history of fracture and is on Fosamax.
5. Status post CVA, ___. Right cerebral artery CVA, embolism. 
Has persistent left-sided weakness.  
6. Bladder urgency treated with Imipramine. History of  
recurrent UTI on abx prophylaxis.  
7. Chronic left leg pain with concern for neuropathy
8. GERD
9. Recurrent falls. Has had mild injuries in the past  
including rib fractures. No recent falls.  
10. Short-term memory disorder. ?Age related versus Alzheimer's. 
 
11. History of mildly abnormal liver function.  
12: CAD. Previous NSTEMI ___ and Coronary Artery Bypass Graft x 
4 in ___ (Left internal mammary  artery to left anterior 
descending, Saphenous vein graft to Diagonal, Saphenous vein 
graft to Ramus, Saphenous vein graft to Obtuse Marginal).  
13. Iron deficiency anemia
14. History of post-operative afib
 
Social History:
___
Family History:
Father had afib and CVA in ___.  
Two cousins with colon cancer.  

 
Physical Exam:
Vital Signs: T 97.5, P 84, BP 128/80, 96% on RA.
 
Physical examination:
- Gen: Elderly female sitting upright in bed in NAD.
- Chest: Normal respirations and breathing comfortably on room 
air. Lungs clear to auscultation bilaterally.
- CV: Regular rhythm. Normal S1, S2. No murmurs or gallops. No 
ankle edema.
- Abdomen: Normal bowel sounds. Soft, nontender, nondistended. 
- MSK: No pain with log roll of right leg. Has good ROM of right 
hip. Has some pain with full internal rotation but otherwise no 
pain. Left hip exam WNL.
- Skin: No lesions, bruises, rashes.
- Neuro: Alert, oriented x3. Good fund of knowledge. Able to 
name months of year backward and has good short term recall. CN 
___ intact. No involuntary movements, atrophy. Normal tone in 
all extremities. Motor exam notable for decreased (___) strength 
in LLE and slightly (___) strength in LUE compared to right 
side. Sensation to light touch intact in upper and lower 
extremities bilaterally. Did not stand patient
- Psych: Appearance, behavior, speech, and affect all normal. 
Patient is alert, attentive, and oriented.
 
Pertinent Results:
Chemistries:
 - ___ 12:10AM   GLUCOSE-118* UREA N-31* CREAT-1.2* 
SODIUM-139 POTASSIUM-5.2* CHLORIDE-103 TOTAL CO2-22 ANION GAP-19

Hematology:
 - ___ 12:10AM   WBC-9.2 (differential: NEUTS-67.9 
___ MONOS-5.1 EOS-3.0 BASOS-0.9) RBC-4.02* HGB-12.0 
HCT-35.1* MCV-87 MCH-29.8 MCHC-34.1 RDW-14.3 PLT COUNT-354

Urine Studies:
 - ___ 09:35PM URINE  COLOR-Yellow APPEAR-Clear SP 
___ BLOOD-TR NITRITE-POS PROTEIN-25 GLUCOSE-NEG KETONE-TR 
BILIRUBIN-NEG UROBILNGN-NEG PH-5.0 LEUK-MOD RBC-0 WBC->50 
BACTERIA-MANY YEAST-NONE EPI-1

CXR: COMPARISON: Chest radiograph ___. 
  
FINDINGS: Patient is status post median sternotomy and CABG. 
There is an 
ill-defined density projecting over the left base. There is no 
evidence for rib fractures. There is a mid thoracic vertebral 
body compression fracture which appears stable. Cardiac 
silhouette, hilar and mediastinal contours appear normal. The 
aorta is calcified and tortuous. 
  
IMPRESSION: 
1. No evidence for right-sided rib injury. 
2. Nodular density at the left base likely confluence of 
shadows. 
  
CT Head:
 - No acute intracranial process. Stable R cerebellar 
encephalomalacia. Small vessel ischemic disease is chronic. 

ECG: SR at 76 with normal axis and intervals. No ST segment 
changes or TWI. No pathologic Q waves and has good RWP. 
Unchanged from ___ ECG.

URINE CULTURE (Final ___: 
      ESCHERICHIA COLI.    >100,000 ORGANISMS/ML.. 
         PRESUMPTIVE IDENTIFICATION. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             ESCHERICHIA COLI
                             |   
AMPICILLIN------------     8 S
AMPICILLIN/SULBACTAM--   <=2 S
CEFAZOLIN-------------   <=4 S
CEFEPIME--------------   <=1 S
CEFTAZIDIME-----------   <=1 S
CEFTRIAXONE-----------   <=1 S
CIPROFLOXACIN---------<=0.25 S
GENTAMICIN------------   <=1 S
MEROPENEM-------------<=0.25 S
NITROFURANTOIN--------  <=16 S
PIPERACILLIN/TAZO-----   <=4 S
TOBRAMYCIN------------   <=1 S
TRIMETHOPRIM/SULFA----   <=1 S

 
 

 
Brief Hospital Course:
Fall:  Ms. ___ was admitted after a fall.  She complained 
of pain at her right hip initially, but hip films were negative. 
 With tylenol alone, her pain completely resolved during her 
hospital stay.  She was evaluated by physical therapy, who 
recommended STR for both ___ and OT in order for her to recover 
her strength and reach her baseline so that she can return home 
to assisted living.  

UTI:  She was diagnosed with a pan-sensitive E Coli UTI during 
her stay,and was initially treated with ceftriaxone, which was 
converted to cefpodoxime.  Daughter is interested in patient 
being on some kind of prophylaxis for recurrent UTIs, so she 
___ d/w PCP and set up outpatient urology appt.

DM:  Her home dose of glyburide was reduced from 10 mg po bid to 
5 mg po bid because of some low sugars in the hospital.  In 
addition, her home dose of metformin 1000 mg po bid was 
continued.  If her blood sugars are elevated at rehab, please 
resume her home dose of 10 mg bid of glyburide. 

She received DVT prophylaxis with heparin during her stay.  As 
she will be more ambulatory during her rehab stay, this was 
discontinued.  

Her admission CXR showed some ? of confluence of shadows at the 
right base.  I discussed this finding with the daughter, and 
with PCP.  IF there remains concern about this finding, the CXR 
can be repeated as an outpatient.  
 
Medications on Admission:
Patient unable to verify but has list from ___:
1. DONEPEZIL [ARICEPT] - 5 mg Tablet - 1 Tablet(s) by mouth 
every other day
2. ___ [AGGRENOX] - 25 mg-200 mg Cap, 
Multiphasic
Release 12 hr - 1 Cap(s) by mouth twice a day
3. Vitamin C 500mg BID
4. ASPIRIN -  (OTC) - 81 mg Tablet, Delayed Release (E.C.) - 1
Tablet(s) by mouth DAILY (Daily)
5. ALENDRONATE - 70 mg Tablet - 1 Tablet(s) by mouth q wk
6. AMLODIPINE 5mg daily
7. CALCIUM CITRATE-VITAMIN D3 [CALCIUM CITRATE + D] - 315 mg-200
unit Tablet - 2 Tablet(s) by mouth Twice Daily
8. FERROUS SULFATE -  (OTC) - 325 mg (65 mg Iron) Tablet - 1
Tablet(s) by mouth every other day
9. GLIPIZIDE - 10 mg Tablet - 2 Tablet(s) by mouth twice a day
10. LISINOPRIL - 40 mg Tablet - 1 Tablet(s) by mouth once a day
11. METOPROLOL TARTRATE - 100 mg Tablet - 1 Tablet(s) by mouth 
twice
a day
12. METFORMIN - 1,000 mg Tablet - in am and 500mg qpm.
13. Macrobid 3 times per week
14. OMEPRAZOLE - 20 mg Capsule, Delayed Release(E.C.) - one 
Capsule,
Delayed Release(E.C.)(s) by mouth once a day
15. Senna
16. SIMVASTATIN - 20 mg Tablet - one Tablet(s) by mouth once a 
day
17. Thiamine
18? possibly cipro

 
Discharge Medications:
***Discharge medicine list reviewed/confirmed with patient's 
daughter, ___
1. ___ 200-25 mg Cap, Multiphasic Release 12 hr 
Sig: One (1) Cap PO BID (2 times a day).  
2. Aspirin 81 mg Tablet, Chewable Sig: One (1) Tablet, Chewable 
PO DAILY (Daily).  
3. Amlodipine 5 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

4. Metoprolol Tartrate 50 mg Tablet Sig: Two (2) Tablet PO BID 
(2 times a day).  
5. Omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO DAILY (Daily).  
6. Simvastatin 10 mg Tablet Sig: Two (2) Tablet PO DAILY 
(Daily).  
7. Lisinopril 20 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
8. Acetaminophen 325 mg Tablet Sig: Two (2) Tablet PO Q6H (every 
6 hours) as needed for Pain.  
9. Metformin 500 mg Tablet Sig: Two (2) Tablet PO BID (2 times a 
day).  
10. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO BID 
(2 times a day) as needed for constipation.  
11. Ferrous Sulfate 300  mg (60 mg Iron) Tablet Sig: One (1) 
Tablet PO 3X/WEEK (___).  
12. Glipizide 5 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day).  
13. Cefpodoxime 100 mg Tablet Sig: One (1) Tablet PO Q12H (every 
12 hours) for 3 days.  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
1.  UTI
2.  DM
3.  Fall
4.  Htn
5.  Dementia

 
Discharge Condition:
Patient is pleasantly demented.  AO x 2.  

 
Discharge Instructions:
You were admitted to ___ after having fallen in your assisted 
living facility.  You had a Head CT which was normal and xrays 
of your hip which did not reveal any fracture.  You were found 
to have a UTI, and were given antibiotics.  You will continue 
the antibiotics for three additional days.  
 
Followup Instructions:
___